US03948973
b. Methyl 2-[p-(1,2-dimethylvinyl)phenoxy]-2-methylpropionate.
Sodium hydride (15.1 g., 0.36 mole, 57% in oil dispersion) was placed in a 2-liter flask and rinsed three times with pentane to remove the oil. Anhydrous dimethylsulfoxide (240 ml.) was then added, and the flask was evacuated and flushed with nitrogen. The mixture was heated to 75°-80°C. for 45 minutes, then cooled in an ice bath. A solution of 133.2 g. of ethyltriphenylphosphonium bromide in 720 ml. of dimethylsulfoxide was then added, the mixture stirred for 15 minutes and then treated with a solution of 70.8 g. (0.30 mole) of methyl 2-(p-acetylphenoxy)-2-methylpropionate in 120 ml. of dimethylsulfoxide. The reaction mixture was stirred for three hours at room temperature and then poured into water. The organic layer was separated, washed with water and saturated sodium chloride solution and dried over anhydrous sodium sulfate to give 81.8 g. of methyl 2-[p-(1,2-dimethylvinyl)phenoxy]-2-methylpropionate as an oil (mixture of geometric isomers). c. 2-[p-(2,2-Dichloro-1,3-dimethylcyclopropyl)phenoxy]-2-methylpropionic acid [I; A, A', R1 and R3 are CH3, R, R3' and Q are H, R 2 and R2' are Cl, and n is 0; para orientation] was prepared from 24.8 g. of methyl 2-[p-(1,2-dimethylvinyl)phenoxy]-2-methylpropionate, 28 g. of potassium t-butoxide and 50 ml. of chloroform in 500 ml. of pentane according to the procedure described above in Example 1, part (b). The methyl ester thus obtained was hydrolyzed in the usual manner with sodium hydroxide in 95% methanol. The acid fraction thus obtained was recrystallized from a benzene-hexane mixture to give 12.5 g. of 2-[p-(2,2-dichloro-1,3-dimethylcyclopropyl)phenoxy]-2-methylpropionic acid, m.p. 138°-145°C. (mixture of geometric isomers).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-[p-(2,2-dichloro-1,3-dimethylcyclopropyl)phenoxy]-2-methylpropionic acid | ClC1(C(C1C)(C)C1=CC=C(OC(C(=O)O)(C)C)C=C1)Cl | C15H18Cl2O3
reactant | methanol | CO | CH4O
product | Methyl 2-[p-(1,2-dimethylvinyl)phenoxy]-2-methylpropionate | CC(=CC)C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C15H20O3
